US08455525B2
4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
Triphenylphosphine (1.0 g, 3.85 mmol) was dissolved in 25 mL of DCM followed by addition of 12 (977 mg, 3.85 mmol) and TEA (779 mg, 7.70 mmol) at 0° C. 3-(tert-butyldimethylsilyloxy)-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-fluorobenzohydrazide (1.25 g, 1.93 mmol) in 35 mL DCM was added to the pre-cooled solution mixture of PPh3/I2/TEA system and stir. The temperature was allowed to rise to room temperature and stirred for additional 10 min. The reaction was quenched with 100 mL saturated sodium thiosulfate and extracted with EtOAc. The crude mixture was chromatographed to give the product (1.10 g). 1H NMR (400 MHz, DMSO-d6, δ in ppm): 7.71 (m, 1H), 7.70 (d, J=9 Hz, 1H), 7.65 (m, 1H), 7.03 (d, J=9 Hz, 1H), 6.53 (d, J=9 Hz, 1H), 5.15 (d, J=9 Hz, 1H), 4.80 (m, 1H), 2.44 (s, 3H), 1.51 (d, J=6 Hz, 3H), 1.13 (s, 9H), 0.83 (s, 9H), 0.36 (s, 6H), 0.19 (s, 3H), 0.00 (s, 3H).

reactant | Triphenylphosphine | 3.85 mmol, 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(tert-butyldimethylsilyloxy)-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-fluorobenzohydrazide | 1.93 mmol, 1.25 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)NNC([C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=CC1F | C31H46ClFN4O4Si2
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2R)-2-(tert-Butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 1.10 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)F)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C31H44ClFN4O3Si2
